US07169925B2
Step B5: 3-Amino-5-chloro-1H-indole-2-carboxylic acid, ethyl ester
Heat at 70° C. and stir a mixture of 3-amino-5-chloro-1-(2,2,2-trifluoro-ethanoyl)-1H-indole-2-carboxylic acid ethyl ester (3.34 g, 10 mmol), ethanol (50 mL), and potassium carbonate (1.50 g, 10.85 mmol). After 1.75 h, add water (20 mL), and after another hour add additional potassium carbonate (0.58 g, 4.20 mmol). Cool the reaction mixture to ambient temperature and partition between water/ethyl acetate. Separate the organic layer, dry over MgSO4, filter and concentrate to afford 1.70 g of the title compound as a solid. MS 239(M+H).

reactant | 3-amino-5-chloro-1-(2,2,2-trifluoro-ethanoyl)-1H-indole-2-carboxylic acid ethyl ester | 10 mmol, 3.34 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1N)Cl)C(C(F)(F)F)=O | C13H10ClF3N2O3
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | potassium carbonate | 10.85 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 4.20 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 mL | O | H2O
product | 3-Amino-5-chloro-1H-indole-2-carboxylic acid, ethyl ester | 1.70 g | NC1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C11H11ClN2O2
